US09301951B2
N1-(2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-N3-methyl-N3-(2-morpholinoethyl)isophthalamide hydrochloride
Into a 250-mL round bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(piperidin-1-yl)phenyl)isonicotinamide (1 g, 2.09 mmol, 1.00 equiv, 95%) in dichloromethane (30 mL), 3-(methyl(2-morpholinoethyl)carbamoyl)benzoic acid (960 mg, 3.12 mmol, 1.50 equiv, 95%), EDC HCl (840 mg, 4.38 mmol, 2.00 equiv), and 4-dimethylaminopyridine (540 mg, 4.43 mmol, 2.00 equiv). The resulting solution was stirred for 3 h at 25° C. The resulting solution was diluted with 200 mL of ethyl acetate. The resulting mixture was washed with 2×30 mL of NH4Cl (aq), 1×30 mL of 10% sodium bicarbonate, and 1×30 mL of brine. The mixture was dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate:methanol (20:1). This resulted in 1.30 g of N1-(2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-N3-methyl-N3-(2-morpholinoethyl)isophthalamide as a brown oil. The brown oil was dissolved in 40 mL of methanol. HCl gas was added at 0° C. The mixture was stirred for 20 min at 0° C. The mixture was concentrated under vacuum. The product was obtained as 1.40 g (86%) of a yellow solid. 1H-NMR (300 MHz, DMSO-d6+D2O, ppm): δ 9.96 (m, 1H), 8.94 (d, J=6 Hz, 1H), 8.59 (m, 2H), 8.49 (s, 1H), 7.93-8.07 (m, 2H), 7.87-8.03 (m, 2H), 7.54-7.80 (m, 7H), 4.59 (s, 2H), 4.12 (m, 1H), 3.99-4.03 (m, 2H), 3.88 (m, 2H), 3.76-3.79 (m, 2H), 3.58 (m, 2H), 3.43 (m, 2H), 3.15-3.17 (m, 3H), 2.96 (s, 3H), 1.97 (m, 4H), 1.71 (m, 2H). MS (ES, m/z): 729 [M+H]+.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(piperidin-1-yl)phenyl)isonicotinamide | 2.09 mmol, 1 g, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)N)=O)C=CC1)(F)F | C25H25F3N4O
reactant | 3-(methyl(2-morpholinoethyl)carbamoyl)benzoic acid | 3.12 mmol, 960 mg, 1.50 equiv | CN(C(=O)C=1C=C(C(=O)O)C=CC1)CCN1CCOCC1 | C15H20N2O4
reactant | EDC HCl | 4.38 mmol, 840 mg, 2.00 equiv | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.43 mmol, 540 mg, 2.00 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N1-(2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-N3-methyl-N3-(2-morpholinoethyl)isophthalamide hydrochloride | 1.40 g, 86% | Cl.FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(C(=O)N(CCN3CCOCC3)C)=CC=C2)=O)C=CC1)(F)F | InChI=1S/C40H43F3N6O4.ClH/c1-47(17-18-48-19-21-53-22-20-48)39(52)31-9-6-8-29(24-31)38(51)46-35-12-11-33(49-15-3-2-4-16-49)26-34(35)36-25-30(13-14-44-36)37(50)45-27-28-7-5-10-32(23-28)40(41,42)43;/h5-14,23-26H,2-4,15-22,27H2,1H3,(H,45,50)(H,46,51);1H
